US05574141
2'-deoxycytidine hydrochloride (1.32 g, 5 mmol) is allowed to react for 1 hour with trimethylsilyl chloride (2.5 ml, 20 mmol) in anhydrous pyridine (20 ml) while stirring. The reaction mixture is then concentrated by evaporation to a volume of ca. 15 ml while excluding moisture and p-toluenesulfonyl chloride (1.9 g, 10 mmol) is added. The well-sealed reaction vessel is stored overnight at 60° C. in a drying cupboard. Examination of the mixture by thin-layer chromatography shows a complete conversion of the starting materials. The reaction volume is increased by addition of dichloromethane (50 ml) and the organic phase is extracted by shaking with a saturated aqueous sodium bicarbonate solution (60 ml). The aqueous layer is extracted twice with dichloromethane (20 ml). The combined extracts are concentrated in a water jet vacuum and made up to a volume of ca. 15 ml with pyridine. Concentrated aqueous ammonia solution (15 ml) is added to this and the progress of the desilylation is monitored by thin layer chromatography. The reaction is quantitative after 4 hours. The reaction mixture is then concentrated under reduced pressure and the crude product, 4-N-p-toluenesulfonyl-2'-deoxycytidine obtained is concentrated by coevaporation with anhydrous pyridine (3×20 ml) and subsequently dissolved again in absolute pyridine (20 ml). 4,4'-dimethoxytrityl chloride (1.70 g, 5 mmol) is added. The tritylation reaction is observed by thin layer chromatography and is completed within 2 hours. The reaction mixture is partitioned between dichloromethane (50 ml) and 0.5M aqueous sodium bicarbonate solution (50 ml). The aqueous layer is additionally extracted with dichloromethane (2×50 ml) and the organic extracts are dried over anhydrous sodium sulfate and concentrated. Pure 5'-O-dimethoxytrityl-4-N-p-toluenesulfonyl-2'-deoxycytidine is obtained after chromatographic purification on a silica gel column with dichloromethane/methanol as the eluting agent. The product is dissolved in benzene (20 ml), frozen and lyophilized in an oil-pump vacuum. The pure product is isolated as a white solid substance. 2.520 g, 73.7% yield

reactant | 2'-deoxycytidine hydrochloride | 5 mmol, 1.32 g | Cl.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1
reactant | trimethylsilyl chloride | 20 mmol, 2.5 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | p-toluenesulfonyl chloride | 10 mmol, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-N-p-toluenesulfonyl-2'-deoxycytidine | C1(=CC=C(C=C1)S(=O)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O)C | C16H19N3O6S
